US06562843B1
4-(4-fluorophenyl)-2-(3-mesyloxypropyl)-3-(4-pyridyl)pyrrole (0.25 g, 0.0007 mol) was refluxed for 16 hours in CH2Cl2 (50 mL) and morpholine (0.25 mL). The solution was cooled and diluted with CH2Cl2 (˜100 mL), then washed with H2O (3×50 mL). The organics were dried over Na2SO4 and evaporated in vacuo to give an oil. This oil was purified on SiO2 eluting with 10% MeOH in CH2Cl2 to give 4-(4-fluorophenyl)-2-(3-morpholinopropyl)-3-(4-pyridyl)pyrrole isolated as a solid (0.088 g, 36% yield). 1HNMR (DMSO-d6) δ 11.12 (1H, s, NH), 8.42 (2H, d), 7.05 (6H, m), 6.95 (1H, d), 3.55 (4H, t), 2.62 (2H, t), 2.29 (6H, m), 1.71 (2H, m).

reactant | 4-(4-fluorophenyl)-2-(3-mesyloxypropyl)-3-(4-pyridyl)pyrrole | 0.0007 mol, 0.25 g | FC1=CC=C(C=C1)C=1C(=C(NC1)CCCOS(=O)(=O)C)C1=CC=NC=C1 | C19H19FN2O3S
reactant | morpholine | 0.25 mL | N1CCOCC1 | C4H9NO
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | ˜100 mL | C(Cl)Cl | CH2Cl2
product | 4-(4-fluorophenyl)-2-(3-morpholinopropyl)-3-(4-pyridyl)pyrrole | FC1=CC=C(C=C1)C=1C(=C(NC1)CCCN1CCOCC1)C1=CC=NC=C1 | C22H24FN3O
